US07115611B2
B] [4-(4-tert-Butoxycarbonylmethoxy-3-methyl-phenyldisulfanyl)-2-methyl-phenoxy]-acetic acid tert-butyl ester
To an ice cooled solution of 4.75 g (17.06 mmol) 4,4′-dithio-bis-(2-methyl-phenol) and 5.55 ml (37.6 mmol) bromo-acetic acid tert-butyl ester in 50 ml DMF was added 204 mg (85.3 mmol) sodium hydride (55% in oil). The reaction mixture was stirred over night at RT and then it was taken up in ether, washed with 1N HCl and water. The crude product was purified by chromatography over silica gel with AcOEt/heptane 1:4 providing 3.4 g pure [4-(4-tert-butoxycarbonylmethoxy-3-methyl-phenyldisulfanyl)-2-methyl-phenoxy]-acetic acid tert-butyl ester.

reactant | 4,4′-dithio-bis-(2-methyl-phenol) | 17.06 mmol, 4.75 g | CC1=C(C=CC(=C1)SSC1=CC(=C(C=C1)O)C)O | C14H14O2S2
reactant | bromo-acetic acid tert-butyl ester | 37.6 mmol, 5.55 ml | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
reactant | sodium hydride | 85.3 mmol, 204 mg | [H-].[Na+]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | ether | CCOCC | C4H10O
product | [4-(4-tert-Butoxycarbonylmethoxy-3-methyl-phenyldisulfanyl)-2-methyl-phenoxy]-acetic acid tert-butyl ester | C(C)(C)(C)OC(COC1=C(C=C(C=C1)SSC1=CC(=C(C=C1)OCC(=O)OC(C)(C)C)C)C)=O | C26H34O6S2
